US06355636B1
To 1.5 g of 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile in 40 mL of absolute ethanol was added 1.1 g of 3-hydroxy-4-methylaniline. After stirring the reaction under an inert atmosphere for 16 hours, the reaction mixture was poured into a mixture of brine and saturated aqueous sodium bicarbonate and the resultant crystals were filtered and washed with water. The product was then recrystallized from chloroform/ether/hexanes. Drying in vacuo yielded 1.9 g (90%) of 6-fluoro-4-(3-hydroxy-4-methyl-phenylamino)-[1.7]naphthyridine-3-carbonitrile as a yellow powder: melting point 236-239° C. (decomposed); mass spectrum (m/e): M+H 294.9.

reactant | 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 1.5 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 3-hydroxy-4-methylaniline | 1.1 g | OC=1C=C(N)C=CC1C | C7H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 6-fluoro-4-(3-hydroxy-4-methyl-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 1.9 g, 90% | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC(=C(C=C1)C)O | C16H11FN4O
